US04846882
Tetrahydrofuran (50 ml) was added to stirred sodium hydride (1.26 g, 0.053 mole) under a nitrogen atmosphere while being cooled in an ice-water bath. Absolute ethanol (5 ml) was then added dropwise and the reaction stirred until hydrogen evolution ceased. A solution of 2-chloro-4-fluorobenzyl bromide (10.62 g, 0.0475 mole ) in tetrahydrofuran (10 ml) was then added to the reaction mixture. The reaction mixture was allowed to stir at ambient temperature overnight. Ethanol and tetrahydrofuran were removed under reduced pressure. The reaction mixture was diluted with diethyl ether (200 ml), washed with water (4×75 ml), dried (magnesium sulfate) and concentrated under reduced pressure to remove solvent. The residue was distilled at low pressure yielding 5.27 g of 2-chloro-4-fluorobenzyl ethyl ether, b.p. 67°-68° C./10 mm Hg. The nmr spectrum was consistent with the proposed structure.

reactant | sodium hydride | 0.053 mole, 1.26 g | [H-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-4-fluorobenzyl bromide | 0.0475 mole, 10.62 g | ClC1=C(CBr)C=CC(=C1)F | C7H5BrClF
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-fluorobenzyl ethyl ether | 5.27 g | C(C)OCC1=C(C=C(C=C1)F)Cl | C9H10ClFO
